US04311787
1-(p-carboxyphenyl)-3-methyl-4-(p-hydroxybenzylidene)-2-pyrazolin-5-one
218 g (1 mole) of 1-p-carboxyphenyl-3-methyl-2-pyrazolin-5-one were suspended in 600 ml of dimethylformamide. The mixture obtained was heated with stirring to 100° C., whereupon a solution of 122 g (1mole) of p-hydroxybenzaldehyde in 400 ml of methanol was added. The dissolution of both compounds was complete. The dye started crystallizing after some 30 min. The heating was stopped after 2 h and the reaction mixture was allowed to cool down to room temperature. The dye was filtered with suction and rinsed with methanol.

reactant | 1-p-carboxyphenyl-3-methyl-2-pyrazolin-5-one | 1 mole, 218 g | C(=O)(O)C1=CC=C(C=C1)N1N=C(CC1=O)C | C11H10N2O3
reactant | p-hydroxybenzaldehyde | 1mole, 122 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
solvent | methanol | 400 ml | CO | CH4O
product | 1-(p-carboxyphenyl)-3-methyl-4-(p-hydroxybenzylidene)-2-pyrazolin-5-one | C(=O)(O)C1=CC=C(C=C1)N1N=C(C(C1=O)=CC1=CC=C(C=C1)O)C | C18H14N2O4
